US07902252B2
2.15. Synthesis of 4-isopropyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (10)
The title compound was synthesized from methyl 4-isopropyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.09 g, 0.43 mmol) and lithium hydroxide monohydrate (185 mg, 4.3 mmol) according to General Procedure 7. The crude product was dried onto Silica gel and was purified by chromatography (0 to 100% EtOAc/heptane) to give 4-isopropyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (10) as brown solid (0.018 g, 21%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 0.93 (d, J=2.68 Hz, 3H) 0.95 (d, J=2.68 Hz, 3H) 1.67 (dq, J=13.37, 6.67 Hz, 1H) 2.04-2.14 (m, J=12.81, 8.91, 5.71, 5.71 Hz, 1H) 2.44-2.55 (m, 1H) 2.56-2.80 (m, 3H) 6.63 (s, 1H). LCMS m/e 194 (M+H). 92.0% pure by HPLC.

reactant | methyl 4-isopropyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.43 mmol, 0.09 g | C(C)(C)C1CCC=2NC(=CC21)C(=O)OC | C12H17NO2
reactant | lithium hydroxide monohydrate | 4.3 mmol, 185 mg | O.[OH-].[Li+]
product | 4-isopropyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 0.018 g, 21% | C(C)(C)C1CCC=2NC(=CC21)C(=O)O | C11H15NO2
